US04271170
2-[4-(3-Pyridylhydroxymethyl)phenylthio]propionic acid ethyl ester
A solution of 0.95 g of 4-bromothiophenol in 20 ml of tetrahydrofuran was added dropwise to 7.5 ml of a 1.4 M solution of butyllithium in hexane at -70° to -60° C. After allowed to warm to 0° C., the mixture was stirred at 0° C. for 5 minutes. To it was added a solution of 0.505 g of 3-formylpyridine in 10 ml of tetrahydrofuran at -70° C., and the mixture was stirred at -70° C. for 30 minutes. To the mixture was added 0.91 g of 2-bromopropionic acid ethyl ester at -70° C., and the mixture was stirred at room temperature for one hour. The reaction mixture was poured into a saturated aqueous solution of ammonium chloride, extracted with diethyl ether, and the extract was washed with a saturated aqueous solution of sodium chloride, dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of cyclohexane and ethyl acetate (1:4) as eluent to give 0.66 g of the title compound having the following physical characteristic:

reactant | 4-bromothiophenol | 0.95 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | butyllithium | C(CCC)[Li]
reactant | 3-formylpyridine | 0.505 g | C(=O)C=1C=NC=CC1 | C6H5NO
reactant | 2-bromopropionic acid ethyl ester | 0.91 g | C(C)OC(C(C)Br)=O | C5H9BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[4-(3-Pyridylhydroxymethyl)phenylthio]propionic acid ethyl ester | 0.66 g | C(C)OC(C(C)SC1=CC=C(C=C1)C(O)C=1C=NC=CC1)=O | C17H19NO3S
